US08124617B2
N-(3-(2-fluorobenzyloxy)-5-(1H-imidazo[4,5-b]pyridin-2-yl)phenyl)thiophene-2-sulfonamide
The subsequent steps have been described previously and include formation of the amide (LC/MS calculated and found 383) from the 3-(2-fluorobenzyloxy)-5-nitrobenzoic acid and 2,3-diaminopyridine with HBTU, TEA, and DMF followed by cyclization to the imidazopyridine (LC/MS calculated and found 365) in the microwave at 180° C. in 1:1 BuOH-glacial acetic acid for 30 min. Finally, the nitro group was reduced to the amine using tin (II) chloride in refluxing ethyl alcohol (LC/MS calculated and found 335) and the resulting amine was reacted with 2-thiophene sulfonyl chloride to form the sulfonamide final product (LC/MS calculated and found 481). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.45 (m, 1H), 7.84 (m, 1H), 7.70 (m, 2H), 7.59 (m, 3H), 7.5-7.2 (m, 5H), 7.06 (m, 1H), 6.99 (m, 1H), 6.71 (m, 1H), 5.16 (s, 2H); Calc'd for C23H17FN4O3S2; m/z (M+H+)=481; found 481.

reactant | 3-(2-fluorobenzyloxy)-5-nitrobenzoic acid | FC1=C(COC=2C=C(C(=O)O)C=C(C2)[N+](=O)[O-])C=CC=C1 | C14H10FNO5
reactant | 2,3-diaminopyridine | NC1=NC=CC=C1N | C5H7N3
reactant | HBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | imidazopyridine | N1C=NC2=C1C=CC=N2 | C6H5N3
reactant | tin (II) chloride | [Sn](Cl)Cl
reactant | 2-thiophene sulfonyl chloride | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | ethyl alcohol | C(C)O | C2H6O
solvent | BuOH | C(CCC)O | C4H10O
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(3-(2-fluorobenzyloxy)-5-(1H-imidazo[4,5-b]pyridin-2-yl)phenyl)thiophene-2-sulfonamide | FC1=C(COC=2C=C(C=C(C2)C=2NC=3C(=NC=CC3)N2)NS(=O)(=O)C=2SC=CC2)C=CC=C1 | C23H17FN4O3S2
